US09447046B2
Preparation 127a: N-methyl-1,3-dihydro-2-benzofuran-5-amine
To a solution of N-(1,3-dihydro-2-benzofuran-5-yl)formamide (250 mg, 1.5 mmol) in THF (20 mL) was added LAH (1.9 mL, 2.4 M in THF, 4.6 mmol) at 0° C. The reaction was stirred at r.t. for 2 h. The solution was diluted with water (0.5 mL) and EtOAc (30 mL), dried (Na2SO4), and concentrated to give 220 mg (96%) of the title compound as a yellow oil. [M+H] Calc'd for C9H11NO, 150. Found, 150.

reactant | N-(1,3-dihydro-2-benzofuran-5-yl)formamide | 1.5 mmol, 250 mg | C1OCC2=C1C=CC(=C2)NC=O | C9H9NO2
reactant | LAH | 4.6 mmol, 2.4 M, 1.9 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N-methyl-1,3-dihydro-2-benzofuran-5-amine | 220 mg, 96% | CNC1=CC2=C(COC2)C=C1 | C9H11NO
